US04091110
(c) Preparation of 3(2,2-dichlorovinyloxy)benzyl bromide
3-Tolyl 2,2-dichlorovinyl ether (12.2 g) was dissolved in carbon tetrachloride (75 ml), and N-bromosuccinimide (12.0 g) and a trace of wet benzoyl peroxide added, and the mixture refluxed for 3 hours. After filtration the solvent was evaporated from the filtrate, and the residue dissolved in ether and extracted with 1% w/v sodium hydroxide solution. The ethereal solution was dried over anhydrous magnesium sulphate, the solvent removed by evaporation under reduced pressure, and the residual oil distilled to yield a fraction boiling at 150° C/0.5 mm Hg. This fraction was shown by NMR to contain about 65% of the required product together with about 30% of unchanged starting material, the remainder being a small proportion of the dibromomethyl compound.

reactant | 3-Tolyl 2,2-dichlorovinyl ether | 12.2 g | ClC(=COC=1C=C(C=CC1)C)Cl | C9H8Cl2O
reactant | N-bromosuccinimide | 12.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 75 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3(2,2-dichlorovinyloxy)benzyl bromide | about 65% | ClC(=COC=1C=C(CBr)C=CC1)Cl | C9H7BrCl2O
